US05932601
A mixture of ethyl 5-(4-hydroxy-3-methoxyphenyl)pentanoate (27.92 g), benzyl bromide (20.82 g), potassium carbonate (22.9 g) and N,N-dimethylformamide (DMF) (140 ml) was stirred for 15 hours at 90° C. The reaction mixture was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:6, v/v), was obtained ethyl 5-(4-benzyloxy-3-methoxyphenyl)pentanoate (31.64 g, 84%),

reactant | ethyl 5-(4-hydroxy-3-methoxyphenyl)pentanoate | 27.92 g | OC1=C(C=C(C=C1)CCCCC(=O)OCC)OC | C14H20O4
reactant | benzyl bromide | 20.82 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 22.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 140 ml | CN(C=O)C | C3H7NO
product | ethyl 5-(4-benzyloxy-3-methoxyphenyl)pentanoate | 31.64 g, 84% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCCCC(=O)OCC)OC | C21H26O4
